US06054141
2-Butyl-7-(tert-butyldimethylsilyloxy)heptanaI (6.01 g, 20 mmol) in 15 ml of anhydrous THF was added dropwise to a freshly prepared solution of methylidene(triphenyl)phosphorane (22 mmol in 125 ml of anhydrous THF/hexane at 0° C. over a period of 15 min. The mixture was warmed to room temperature, stirred for 8 h, and poured into 300 ml of ice/water and extracted (3×75 ml) with ether. The combined organic extracts were washed with water and dried over anhydrous MgSO4. Solvents were removed by evaporation and pentane (250 ml) was added to the red oily residue. The mixture was chilled to 0° C. and the precipitated Ph3PO removed by filtration The precipitate was washed with ice-cold pentane and the filtrate concentrated in vacuo. The crude product was purified by PMPLC yielding 4.06 g (68%) of 8-(tert-butyldimethylsilyloxy)-3-butyloct-1-ene.

reactant | 2-Butyl-7-(tert-butyldimethylsilyloxy)heptanaI | 20 mmol, 6.01 g | C(CCC)C(C=O)CCCCCO[Si](C)(C)C(C)(C)C | C17H36O2Si
reactant | methylidene(triphenyl)phosphorane | C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H17P
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF hexane | 125 ml | C1CCOC1.CCCCCC
product | 8-(tert-butyldimethylsilyloxy)-3-butyloct-1-ene | 4.06 g, 68% | [Si](C)(C)(C(C)(C)C)OCCCCCC(C=C)CCCC | C18H38OSi
